US04957928
While cooling with ice, a solution of 50 g (0.2 mol) of 3-ethoxycarbonylmethyl-2,2-dimethyl-chroman in 250 ml of absolute diethyl ether is added dropwise within a period of 1 hour to a suspension of 7.6 g (0.2 mol) of lithium aluminium hydride in 200 ml of absolute diethyl ether. The reaction mixture is then stirred for 3 hours at room temperature and then carefully decomposed with 7.5 ml of water, 7.5 ml of sodium hydroxide solution (15%) and 23 ml of water. The resulting precipitate is filtered off. The filtrate is dried over sodium sulfate and concentrated by evaporation in vacuo, yielding 39.5 g (95% of the theoretical yield) of 2,2-dimethyl-3-(2-hydroxyethyl)-chroman in the form of a colourless oil.

reactant | 3-ethoxycarbonylmethyl-2,2-dimethyl-chroman | 0.2 mol, 50 g | C(C)OC(=O)CC1C(OC2=CC=CC=C2C1)(C)C | C15H20O3
reactant | lithium aluminium hydride | 0.2 mol, 7.6 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 7.5 ml | O | H2O
reactant | sodium hydroxide | 7.5 ml | [OH-].[Na+]
reactant | water | 23 ml | O | H2O
solvent | diethyl ether | 250 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
product | 2,2-dimethyl-3-(2-hydroxyethyl)-chroman | CC1(OC2=CC=CC=C2CC1CCO)C | C13H18O2
